*  
* Diode Model Produced by Altium Ltd  
* Date:  7-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-5557  
*  
* Parameters derived from information available in data sheet.  
*  
*                 cathode-c
*                 |  anode-c,d
*                 |  |  cathode-b
*                 |  |  |  anode-a,b DP
*                 |  |  |  |  cathode-DP
*                 |  |  |  |  |  cathode-a
*                 |  |  |  |  |  |  anode-a,b DP
*                 |  |  |  |  |  |  |  anode-c,d
*                 |  |  |  |  |  |  |  |  cathode-d
*                 |  |  |  |  |  |  |  |  |
.SUBCKT HDSP_5557 1  2  3  4  5  6  7  8  9

DA1  4  6 dHDSP_5557
DB1  4  3 dHDSP_5557
DDP1 4  5 dHDSP_5557

DA2  7  6 dHDSP_5557
DB2  7  3 dHDSP_5557
DDP2 7  5 dHDSP_5557

DC1  2  1 dHDSP_5557
DD1  2  9 dHDSP_5557

DC2  8  1 dHDSP_5557
DD2  8  9 dHDSP_5557

.MODEL dHDSP_5557 D
+ (  
+     IS = 7.07436607E-24 
+      N = 1.24380258 
+     RS = 22.12166762 
+     BV = 30
+    IBV = 100u 
+ )  

.ENDS HDSP_5557