*  
* Diode Model Produced by Altium Ltd  
* Date:  6-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-5607  
*  
* Parameters derived from information available in data sheet.  
*
*                 cathode-c
*                 |  anode-c, d
*                 |  |  cathode-b
*                 |  |  |  anode-a, b, DP
*                 |  |  |  |  cathode-DP
*                 |  |  |  |  |  cathode-a
*                 |  |  |  |  |  |  anode-a, b, DP
*                 |  |  |  |  |  |  |  anode-c, d
*                 |  |  |  |  |  |  |  |  cathode-d
*                 |  |  |  |  |  |  |  |  |  
.SUBCKT HDSP_5607 1  2  3  4  5  6  7  8  9

DA1   4  6 dHDSP_5607
DB1   4  3 dHDSP_5607
DDP1  4  5 dHDSP_5607

DA2   7  6 dHDSP_5607
DB2   7  3 dHDSP_5607
DDP2  7  5 dHDSP_5607

DC1   2  1 dHDSP_5607
DD1   2  9 dHDSP_5607

DC2   8  1 dHDSP_5607
DD2   8  9 dHDSP_5607

.MODEL dHDSP_5607 D
+ (  
+     IS = 1.61114016E-27 
+      N = 1.30291189 
+     RS = 12.83456794 
+     BV = 50 
+    IBV = 100u 
+ )  

.ENDS HDSP_5607