*  
* Diode Model Produced by Altium Ltd  
* Date:  6-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-5708  
*  
* Parameters derived from information available in data sheet.  
*
*                 anode-c
*                 |  cathode-c, d
*                 |  |  anode-b
*                 |  |  |  cathode-a, b, DP
*                 |  |  |  |  anode-DP
*                 |  |  |  |  |  anode-a
*                 |  |  |  |  |  |  cathode-a, b, DP
*                 |  |  |  |  |  |  |  cathode-c, d
*                 |  |  |  |  |  |  |  |  anode-d
*                 |  |  |  |  |  |  |  |  |  
.SUBCKT HDSP_5708 1  2  3  4  5  6  7  8  9

DA1   6  4 dHDSP_5708
DB1   3  4 dHDSP_5708
DDP1  5  4 dHDSP_5708

DA2   6  7 dHDSP_5708
DB2   3  7 dHDSP_5708
DDP2  5  7 dHDSP_5708

DC1   1  2 dHDSP_5708
DD1   9  2 dHDSP_5708

DC2   1  8 dHDSP_5708
DD2   9  8 dHDSP_5708

.MODEL dHDSP_5708 D
+ (  
+     IS = 1.82902372E-24 
+      N = 1.34581490 
+     RS = 23.36447097 
+     BV = 40 
+    IBV = 100u 
+ )  

.ENDS HDSP_5708