*  
* Diode Model Produced by Altium Ltd  
* Date:  7-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-5738  
*  
* Parameters derived from information available in data sheet.  
* 
*                 anode-c 
*                 |  cathode-c,d
*                 |  |  anode-b 
*                 |  |  |  cathode-a,b, DP 
*                 |  |  |  |  anode DP 
*                 |  |  |  |  |  anode-a
*                 |  |  |  |  |  |  cathode-a,b, DP  
*                 |  |  |  |  |  |  |  cathode-c,d   
*                 |  |  |  |  |  |  |  |  anode-d  
*                 |  |  |  |  |  |  |  |  |  
*                 |  |  |  |  |  |  |  |  |
.SUBCKT HDSP_5738 1  2  3  4  5  6  7  8  9

DA1  6 4 dHDSP_5738
DA2  6 7 dHDSP_5738

DB1  3 4 dHDSP_5738
DB2  3 7 dHDSP_5738

DC1  1 2 dHDSP_5738
DC2  1 8 dHDSP_5738

DD1  9 2 dHDSP_5738
DD2  9 8 dHDSP_5738

DDP1 5 4 dHDSP_5738
DDP2 5 7 dHDSP_5738

.MODEL dHDSP_5738 D
+ (  
+     IS = 8.07922028E-13 
+      N = 3.08151986 
+     RS = 5.65168121 
+     BV = 2.25
+    IBV = 100u 
+ )  

.ENDS HDSP_5738