*  
* Diode Model Produced by Altium Ltd  
* Date:  3-May-2004 
*  
* Manufacturer: Renesas  
* Component Name: HDSP-7508  
*  
* Parameters derived from information available in data sheet.  
* 
*                 common-cathode
*                 |  anode-PLUS
*                 |  |  anode-MINUS
*                 |  |  |  common-cathode
*                 |  |  |  |  anode-DP
*                 |  |  |  |  |  anode-c
*                 |  |  |  |  |  |  anode-b
*                 |  |  |  |  |  |  |
.SUBCKT HDSP_7508 1  2  3  6  7  8  9

DPLUS1  2  1  dHDSP_7508
DMINUS1 3  1  dHDSP_7508
DB1     9  1  dHDSP_7508
DC1     8  1  dHDSP_7508
DDP1    7  1  dHDSP_7508

DPLUS2  2  6  dHDSP_7508
DMINUS2 3  6  dHDSP_7508
DB2     9  6  dHDSP_7508
DC2     8  6  dHDSP_7508
DDP2    7  6  dHDSP_7508
 
.MODEL dHDSP_7508 D
+ (  
+     IS = 1.31238168E-27 
+      N = 1.06196807 
+     RS = 24.48189481 
+     BV = 25
+    IBV = 100u 
+ )  

.ENDS HDSP_7508