*  
* Diode Model Produced by Altium Ltd  
* Date:  7-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-7518  
*  
* Parameters derived from information available in data sheet.  
* 
*                 common-cathode
*                 |  anode-PLUS
*                 |  |  anode-MINUS
*                 |  |  |  common-cathode
*                 |  |  |  |  anode-DP
*                 |  |  |  |  |  anode-c
*                 |  |  |  |  |  |  anode-b
*                 |  |  |  |  |  |  |
.SUBCKT HDSP_7518 1  2  3  6  7  8  9

DPLUS1  2  1 dHDSP_7518
DMINUS1 3  1 dHDSP_7518
DB1     9  1 dHDSP_7518
DC1     8  1 dHDSP_7518
DDP1    7  1 dHDSP_7518

DPLUS2  2  6 dHDSP_7518
DMINUS2 3  6 dHDSP_7518
DB2     9  6 dHDSP_7518
DC2     8  6 dHDSP_7518
DDP2    7  6 dHDSP_7518
 
.MODEL dHDSP_7518 D
+ (  
+     IS = 7.07436607E-24 
+      N = 1.24380258 
+     RS = 22.12166762 
+     BV = 30
+    IBV = 100u 
+ )  

.ENDS HDSP_7518 