*  
* Diode Model Produced by Altium Ltd  
* Date:  10-Mar-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-521A  
*  
* Parameters derived from information available in data sheet.  
*  
*                 E-cathode-1
*                 |  D-cathode-1
*                 |  |  C-cathode-1
*                 |  |  |  DP-cathode-1
*                 |  |  |  |  E-cathode-2
*                 |  |  |  |  |  D-cathode-2
*                 |  |  |  |  |  |  G-cathode-2
*                 |  |  |  |  |  |  |  C-cathode-2
*                 |  |  |  |  |  |  |  |  DP-cathode-2
*                 |  |  |  |  |  |  |  |  |  B-cathode-2
*                 |  |  |  |  |  |  |  |  |  |  A-cathode-2
*                 |  |  |  |  |  |  |  |  |  |  |  F-cathode-2
*                 |  |  |  |  |  |  |  |  |  |  |  |  common anode-2
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  common anode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  B-cathode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  A-cathode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  G-cathode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  F-cathode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |
.SUBCKT HDSP_521A 1  2  3  4  5  6  7  8  9  10 11 12 13 14 15 16 17 18

DA1  14 16 dHDSP_521A
DB1  14 15 dHDSP_521A
DC1  14  3 dHDSP_521A
DD1  14  2 dHDSP_521A
DE1  14  1 dHDSP_521A
DF1  14 18 dHDSP_521A
DG1  14 17 dHDSP_521A
DDP1 14  4 dHDSP_521A

DA2  13 11 dHDSP_521A
DB2  13 10 dHDSP_521A
DC2  13  8 dHDSP_521A
DD2  13  6 dHDSP_521A
DE2  13  5 dHDSP_521A
DF2  13 12 dHDSP_521A
DG2  13  7 dHDSP_521A
DDP2 13  9 dHDSP_521A

.MODEL dHDSP_521A D
+ (  
+    IS  = 4.92088043E-22 
+     N  = 1.51994259 
+    RS  = 3.79496255
+    BV  = 4.5
+   IBV  = 100u 
+ )  

.ENDS HDSP_521A