*  
* Diode Model Produced by Altium Ltd  
* Date:  7-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-523E  
*  
* Parameters derived from information available in data sheet.  
*  
*                 E-anode-1
*                 |  D-anode-1
*                 |  |  C-anode-1
*                 |  |  |  DP-anode-1
*                 |  |  |  |  E-anode-2
*                 |  |  |  |  |  D-anode-2
*                 |  |  |  |  |  |  G-anode-2
*                 |  |  |  |  |  |  |  C-anode-2
*                 |  |  |  |  |  |  |  |  DP-anode-2
*                 |  |  |  |  |  |  |  |  |  B-anode-2
*                 |  |  |  |  |  |  |  |  |  |  A-anode-2
*                 |  |  |  |  |  |  |  |  |  |  |  F-anode-2
*                 |  |  |  |  |  |  |  |  |  |  |  |  common-cathode-2
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  common-cathode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  B-anode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  A-anode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  G-anode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  F-anode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |
.SUBCKT HDSP_523E 1  2  3  4  5  6  7  8  9  10 11 12 13 14 15 16 17 18

DA1  16 14 dHDSP_523E
DB1  15 14 dHDSP_523E
DC1   3 14 dHDSP_523E
DD1   2 14 dHDSP_523E
DE1   1 14 dHDSP_523E
DF1  18 14 dHDSP_523E
DG1  17 14 dHDSP_523E
DDP1  4 14 dHDSP_523E

DA2  11 13 dHDSP_523E
DB2  10 13 dHDSP_523E
DC2   8 13 dHDSP_523E
DD2   6 13 dHDSP_523E
DE2   5 13 dHDSP_523E
DF2  12 13 dHDSP_523E
DG2   7 13 dHDSP_523E
DDP2  9 13 dHDSP_523E

.MODEL dHDSP_523E D
+ (  
+     IS = 2.97916223E-13 
+      N = 2.65811387 
+     RS = 19.04725440 
+     BV = 4.8
+    IBV = 100u 
+ )  

.ENDS HDSP_523E